US06417202B1
3-Hydroxymethyl-1-methoxymethyl-4-methyl-2,5-di(4-pyridyl)-1H-pyrrole
To a stirred suspension of lithium aluminum hydride (LAH) (88 mg, 2.31 mmol) was added 3-ethoxycarbonyl-1-methoxymethyl-4-methyl-2,5-di(4-pyridyl)-1H-pyrrole (270 mg, 0.77 mmol) at 0° C. under nitrogen. After stirring for 2 hours, the reaction mixture was allowed to warm to room temperature and stirred for 3 days. Saturated aqueous ammonium chloride solution (50 mL) was added to the mixture, and the whole was extracted with ethyl acetate (70 mL×2). Combined organic layers were washed. with brine (50 mL), dried over MgSO4, and concentrated il vacuo to afford the subtitle compound (180 mg, 5.8% yield) as a solid.

reactant | lithium aluminum hydride | 2.31 mmol, 88 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-ethoxycarbonyl-1-methoxymethyl-4-methyl-2,5-di(4-pyridyl)-1H-pyrrole | 0.77 mmol, 270 mg | C(C)OC(=O)C1=C(N(C(=C1C)C1=CC=NC=C1)COC)C1=CC=NC=C1 | C20H21N3O3
solvent | ammonium chloride | 50 mL | [Cl-].[NH4+]
product | 3-Hydroxymethyl-1-methoxymethyl-4-methyl-2,5-di(4-pyridyl)-1H-pyrrole | 180 mg, 5.8% yield | OCC1=C(N(C(=C1C)C1=CC=NC=C1)COC)C1=CC=NC=C1 | C18H19N3O2
